US07390903B2
To a stirred solution of 60 mg (0.24 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-thiophen-2-yl-methanone) (the preparation of which is described in example 2) in 2 ml acetic acid was added 40 mg (0.32 mmol) of 1-cyclopropyl-butane-1,3-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 15 mg (19%) cyclopropyl-(2-methyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[4.5]thieno[2,3-b]pyridin-3-yl)-methanone as a light brown oil. ES-MS m/e (%): 340 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-thiophen-2-yl-methanone | 0.24 mmol, 60 mg | NC1=C(C2=C(S1)CCC2)C(=O)C=2SC=CC2 | C12H11NOS2
reactant | 1-cyclopropyl-butane-1,3-dione | 0.32 mmol, 40 mg | C1(CC1)C(CC(C)=O)=O | C7H10O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | cyclopropyl-(2-methyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[4.5]thieno[2,3-b]pyridin-3-yl)-methanone | 15 mg, 19% | C1(CC1)C(=O)C=1C(=C2C(=NC1C)SC1=C2CCC1)C=1SC=CC1 | C19H17NOS2
